US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-({4-[(trifluoromethyl)oxy]phenyl}methyl)-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (29.9 mg, 0.107 mmol) and 4-(bromomethyl)phenyl trifluoromethyl ether (51 mg, 0.20 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (41.3 mg, 72%). EI-MS m/z 454 (M+) Rt (1.95 rain).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.107 mmol, 29.9 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 4-(bromomethyl)phenyl trifluoromethyl ether | 0.20 mmol, 51 mg | FC(F)(F)OC1=CC=C(C=C1)CBr | C8H6BrF3O
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-({4-[(trifluoromethyl)oxy]phenyl}methyl)-1-azoniabicyclo[2.2.1]heptane bromide | 41.3 mg, 72% | [Br-].OC(C12CC[N+](CC1)(C2)CC2=CC=C(C=C2)OC(F)(F)F)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H27F3NO2.BrH/c28-27(29,30)33-24-13-11-21(12-14-24)19-31-17-15-25(20-31,16-18-31)26(32,22-7-3-1-4-8-22)23-9-5-2-6-10-23;/h1-14,32H,15-20H2;1H/q+1;/p-1
